US07326788B2
To a cooled solution (−40° C.) of 2-bromopyridine (1.68 mL, 17.6 mmol) in tetrahydrofuran (THF) (30 mL) was added n-butyllithium (nBuLi) (9.7 mL, 19 mmol, 2M in pentane) in a dropwise fashion and the resulting mixture was stirred for 30 min. 2-amino-5-chlorobenzoic acid (0.7 g, 4 mmol) was added and stirring was continued at 0° C. After 2 h, the mixture was quenched with trimethylchlorosilane (TMSCl) (10 mL), and hydrolyzed with 1N HCl (30 mL). The aqueous layer was separated from the organic phase, neutralized with 3N aq. sodium hydroxide, and extracted with ether (3×100 mL). The combined ether extracts were dried (Na2SO4), filtered, concentrated and purified by flash chromatography on silica gel [hexanes:ethyl acetate (7:3)] to give (2-amino-5-chlorophenyl)-pyridin-2-yl-methanone (0.71 g, 76%).

reactant | 2-bromopyridine | 17.6 mmol, 1.68 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 19 mmol, 2M, 9.7 mL | C(CCC)[Li]
reactant | 2-amino-5-chlorobenzoic acid | 4 mmol, 0.7 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (2-amino-5-chlorophenyl)-pyridin-2-yl-methanone | 0.71 g, 76% | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CC=C1 | C12H9ClN2O
